US08030337B2
N-{2-[2-(4-Phenylbutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}propionamide
N-{2-[2-(4-Phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]ethyl}propionamide (35.7 mg, 0.0919 mmol) was dissolved in methanol (0.92 mL), a 10% palladium-carbon powder (7 mg) was added, and the mixture was stirred at room temperature for 10 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=33/67) to give the title compound (31.2 mg, yield 87%).

reactant | N-{2-[2-(4-Phenylbutyl)-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene]ethyl}propionamide | 0.0919 mmol, 35.7 mg | C1(=CC=CC=C1)CCCCC=1OC2=C(N1)C=CC=1CCC(C12)=CCNC(CC)=O | C25H28N2O2
solvent | methanol | 0.92 mL | CO | CH4O
catalyst | palladium-carbon | 7 mg | [C].[Pd]
product | N-{2-[2-(4-Phenylbutyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}propionamide | 31.2 mg, yield 87% | C1(=CC=CC=C1)CCCCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(CC)=O | C25H30N2O2
